US07557111B2
{1-[7-(4-Bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetic acid
A mixture of {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetonitrile (350 mg) and KOH (492 mg) in a mixture of EtOH (1.5 mL) and H2O (1.0 mL) in a sealed tube was heated at 105° C. for 3 hours. After concentration of the reaction mixture under reduced pressure, 5% KHSO4 aqueous solution was added and extracted with CHCl3. The organic layer washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: CHCl3/methanol=20:1) to obtain the title compound (164 mg).

reactant | {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetonitrile | 350 mg | BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2N2CCC(CC2)CC#N)C)C)C | C23H25BrN4S
reactant | KOH | 492 mg | [OH-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | EtOH | 1.5 mL | CCO | C2H6O
solvent | H2O | 1.0 mL | O | H2O
product | {1-[7-(4-Bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetic acid | 164 mg | BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2N2CCC(CC2)CC(=O)O)C)C)C | C23H26BrN3O2S
